US08211901B2
Preparation of N-(2-amino-4-chlorophenyl)-6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthamide
The title compound (42.9 mg, 83% yield) was prepared as a brown solid from 6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthoic acid (37.6 mg, 0.1 mmol) and 4-chloro-o-phenylenediamine (17.1 mg, 0.12 mmol) by an analogous procedure to that described in example 16. 1H NMR (DMSO-d6) δ 4.01 (s, 6H, 2×OCH3), 5.31 (s, 2H, benzene-NH2), 6.65 (d, J=8.3 Hz, 1H, Ar—H), 6.86 (d, J=1.9 Hz, 1H, Ar—H), 7.41 (s, 1H, Ar—H), 7.58-7.67 (m, 4H, Ar—H), 7.89 (d, J=6.8 Hz, 1H, Ar—H), 8.01 (s, 1H, Ar—H), 8.09 (d, J=8.1 Hz, 1H, Ar—H), 8.37 (d, J=9.2 Hz, 1H, Ar—H), 8.55 (s, 1H, Ar—H), 9.84 (s, 1H, benzene-NH). LC-MS (m/z) 501 (M+1).

reactant | 6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthoic acid | 0.1 mmol, 37.6 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C21H16N2O5
reactant | 4-chloro-o-phenylenediamine | 0.12 mmol, 17.1 mg | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
product | N-(2-amino-4-chlorophenyl)-6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthamide | 42.9 mg, 83% yield | NC1=C(C=CC(=C1)Cl)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C27H21ClN4O4
